US05958914
A solution of ethyl 3-oxopentanoate (50 g) in acetic acid (66 ml) was cooled to 0° C. and treated dropwise with 2/3 portion of a solution of sodium nitrite (52.6 g) in water (170 ml). After dropping (40 minutes), the reaction mixture was diluted with water (170 ml) and stirred for 1.5 hours. The mixture was treated with the residual solution of sodium nitrite at room temperature and stirred for more 1.5 hours. The reaction mixture was diluted with ether and quenched by aqueous sodium bicarbonate. The organic phase was washed with brine and dried with magnesium sulfate. The solvent was removed under reduced pressure to afford ethyl 2-(Z)-hydroxyimino-3-oxopentanoate (43.77 g).

reactant | ethyl 3-oxopentanoate | 50 g | O=C(CC(=O)OCC)CC | C7H12O3
reactant | sodium nitrite | 52.6 g | N(=O)[O-].[Na+]
solvent | acetic acid | 66 ml | C(C)(=O)O | C2H4O2
solvent | water | 170 ml | O | H2O
solvent | water | 170 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | ethyl 2-(Z)-hydroxyimino-3-oxopentanoate | 43.77 g | O\N=C(/C(=O)OCC)\C(CC)=O | C7H11NO4
